US08242133B2
A mixture of 0.59 g of 60% sodium hydride (in oil) and 5 ml of DMF was stirred while ice-cooling. To the reaction mixture, 1.59 g of benzyl alcohol was added. The reaction mixture was stirred at the same temperature for 10 minutes. To the reaction mixture, 2.0 g of 3-chloroisonicotinonitrile was added, and the reaction mixture was stirred at the same temperature for 30 minutes and at room temperature for 1.5 hours. The reaction mixture was concentrated under reduced pressure, and then to ethyl acetate was added to the reaction mixture, followed by filtration of insoluble matters. The filtrate was concentrated under reduced pressure and the resultant residue was subjected to silica gel column chromatography to give 2.64 g of 3-benzyloxy isonicotinonitrile.

reactant | sodium hydride | 0.59 g | [H-].[Na+]
reactant | benzyl alcohol | 1.59 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 3-chloroisonicotinonitrile | 2.0 g | ClC1=C(C#N)C=CN=C1 | C6H3ClN2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-benzyloxy isonicotinonitrile | 2.64 g | C(C1=CC=CC=C1)OC1=C(C#N)C=CN=C1 | C13H10N2O
